US04074051
Ethyl 2-dimethylaminomethylacrylate
A solution of the 2-dimethylaminomethylacrylic acid (35 g) compound prepared as in Example 1 in ethanol (350 ml) and concentrated sulphuric acid (60 ml) were boiled under reflux for three hours. The solution was evaporated to half volume and poured into water (1 liter). The aqueous solution was neutralised by the addition of solid sodium carbonate and extracted with ether. Evaporation of the ether solution gave a pale brown oil which was distilled to give a colourless oil (boiling point 84° C/20 mm). The product was identical with that obtained in Example 4.

reactant | 2-dimethylaminomethylacrylic acid | 35 g | CN(C)CC(C(=O)O)=C | C6H11NO2
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 350 ml | C(C)O | C2H6O
product | Ethyl 2-dimethylaminomethylacrylate | CN(C)CC(C(=O)OCC)=C | C8H15NO2
